US05459138
EXAMPLE 20: 3-METHYL-4H-PYRIDO[4,3-e][1,2,4]THIADIAZINE 1,1-DIOXIDE
1 g of 4-aminopyridine-3-sulfonamide (Preparation 2) is maintained for 4-6 hours at reflux in 10 cm3 of acetic anhydride. After cooling, the reaction mixture is treated with 60 cm3 of diethyl ether. The precipitate obtained is filtered, washed with diethyl ether and dried. It is recrystallized from hot water.

reactant | 4-aminopyridine-3-sulfonamide | 1 g | NC1=C(C=NC=C1)S(=O)(=O)N | C5H7N3O2S
reactant | diethyl ether | 60 cm3 | C(C)OCC | C4H10O
solvent | acetic anhydride | 10 cm3 | C(C)(=O)OC(C)=O | C4H6O3
product | 3-METHYL-4H-PYRIDO[4,3-e][1,2,4]THIADIAZINE 1,1-DIOXIDE | CC1=NS(C2=C(N1)C=CN=C2)(=O)=O | C7H7N3O2S
